US07704995B2
3-Amino-6-bromopyrazine-2-carbonitrile:
3-Amino-6-bromopyrazine-2-carboxamide (1.5 g, 7 mmol) was dissolved in pyridine (15 mL). The solution was then cooled in an ice bath and POCl3 (2 mL) was drop wise added. The resulting mixture was stirred at room temperature for 2.5 h. The solvent was removed and the residue was quenched by the careful addition of ice cooled Na2CO3 (5 mmol). Ethyl acetate was added (45 mL) and the organic layer was separated, washed with brine (5 mL), HCl (0.1 M aqueous solution, 1 mL) and water (5 mmol), dried with K2CO3 and concentrated. The crude matherial was triturated with hexane, and the resulting tan solid was filtered to provide 0.8 g (58% yield) of the title compound: 1H NMR (400 MHz; DMSO-d6): 8.42 (s, 1H); 7.60 (br s, NH); MS (EI) for C5H3BrN4: 199 (MH+).

reactant | 3-Amino-6-bromopyrazine-2-carboxamide | 7 mmol, 1.5 g | NC=1C(=NC(=CN1)Br)C(=O)N | C5H5BrN4O
reactant | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | 5 mmol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 5 mmol | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | brine | 5 mL | [Cl-].[Na+].O
solvent | HCl | 0.1 M, 1 mL | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-6-bromopyrazine-2-carbonitrile | 0.8 g, 58% yield | NC=1C(=NC(=CN1)Br)C#N | C5H3BrN4
